Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___
 
Chief Complaint:
AlloSCT Admission
 
Major Surgical or Invasive Procedure:
Temporary CVL

 
History of Present Illness:
___ year old female with CVID, history of follicular lymphoma 
transformed to DLBCL ___ autoSCT in ___ in remission from 
lymphoma, but noted for treatment-related MDS ___ 4 cycles of 
Decitabine(C4 D1 =
___, now presents for MUD AlloSCT w/ 
Fludarabine/Busulfan/ATG conditioning.

Of note, the patient was discharged ___ after admission for 
RSV Bronchiolitis. She was treated with palvilizumab on ___ and 
ribavirin 600 mg q8h (___). Patient also was treated 
with 4 days of 10 g IVIg (___). She received a 5 day 
course of azithromycin for anti-inflammatory effect. She was 
also continued on cefepime (___), that was transitioned 
to levaquin on ___ for bacterial prophylaxis.

She also had a tooth extraction on the lower left side on 
___ due to persistent tooth pain and completed 1 week of 
Amoxicillin.

On arrival to the floor the patient is feeling quite well. 
Minimal discomfort from her tooth extraction. Otherwise denying 
complete review of systems. She is ready to go through with 
transplant and hoping to get it over with.
 
Past Medical History:
- Treatment-Related MDS after transformed follicular lymphoma
- CVID, received IVIG monthly; last given ___
- GERD                                          
- Osteoarthritis                                         
- DVT, right lower extremity, IVC filter in place
- Cervical radiculopathy
- Sciatica
- Obstructive sleep apnea, wears CPAP
- H/O cerebral aneurism, noted on MRA with small R internal
carotid cavernous sinus aneurysm; coil placed in the aneurysm
(___).  On Neurontin.  Exam notable for slight CN 6 palsy of
the right eye, mild proptosis of the right eye, and hyperthesia
of the right V1 distribution
- Asthma
- Obesity
- Hypertension
- Migraines
- + RSV, ___
- History of osteomyelitis with IV antibioitcs for 6
weeks. 
 
Social History:
___
Family History:
Brother with lymphoma, died at age ___. Father had CAD and DM. 
Mother had CHF.
 
Physical Exam:
ADMISSION: 
Vitals: 98.3 142/77 89 16 99 RA
Gen: Pleasant, calm, A&Ox3
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple, No LAD
CV: Normocardic, regular. Normal S1,S2. No MRG.   
LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
ABD: NABS. Soft, NT, ND.  
EXT: WWP. No pitting edema but changes consistent with venous 
stasis dermatitis and edema. 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  
NEURO: A&Ox3. Known R CN6 palsy since aneurism repair and R 
pupil with minimal response to light. Otherwise CN intact and 
strength ___ all extremities.
LINES: L port, R CVL
 
Pertinent Results:
ADMISSION: 
___ 11:15AM BLOOD WBC-5.0 RBC-2.49* Hgb-8.7* Hct-27.2* 
MCV-109* MCH-34.9* MCHC-32.0 RDW-UNABLE TO  RDWSD-UNABLE TO  Plt 
Ct-67*
___ 11:15AM BLOOD Neuts-74.9* Lymphs-16.9* Monos-6.2 
Eos-1.2 Baso-0.4 Im ___ AbsNeut-3.78 AbsLymp-0.85* 
AbsMono-0.31 AbsEos-0.06 AbsBaso-0.02
___ 11:15AM BLOOD Hypochr-NORMAL Anisocy-3+ Poiklo-1+ 
Macrocy-3+ Microcy-NORMAL Polychr-1+ Ovalocy-1+ Tear 
Dr-OCCASIONAL
___ 11:15AM BLOOD ___ PTT-30.7 ___
___ 05:15AM BLOOD ___
___ 11:15AM BLOOD UreaN-15 Creat-0.9 Na-140 K-4.0 Cl-105 
HCO3-22 AnGap-17
___ 11:15AM BLOOD ALT-11 AST-16 LD(LDH)-260* AlkPhos-124* 
TotBili-0.2 DirBili-<0.2 IndBili-0.2
___ 11:15AM BLOOD TotProt-6.7 Albumin-4.2 Globuln-2.5 
Calcium-8.7 Phos-3.4 Mg-2.2 UricAcd-3.7

IMAGING: 

CXR ___:
In comparison with the study of ___, the cardiac silhouette 
remains at the upper limits of normal or mildly enlarged.  Mild 
indistinctness of pulmonary vessels is consistent with mild 
elevation of pulmonary venous pressure.  However, no evidence of 
acute focal pneumonia or pleural effusion. There has been 
interval placement of right IJ catheter that extends to the 
lower SVC. 

RUQUS ___:
1. Patent hepatic vasculature. 
2. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded on the basis of this examination. 

 
Brief Hospital Course:
___ year old female with CVID, RLE DVT, OSA on CPAP, and hx 
cerebral aneurism ___ coil, who follows for follicular lymphoma 
transformed to DLBCL ___ autoSCT in ___ now with 
treatment-related MDS ___ 4 cycles of Decitabine(C4 D1 
___, admitted for MUD AlloSCT w/ 
Fludarabine/Busulfan/ATG conditioning.

#Treatment-Related MDS:
Patient with follicular lymphoma transformed to DLBCL ___ 
autoSCT in ___ now with rapid progression of pancytopenia, 
particularly anemia. Bone marrow biopsy with dysplasia of all 
cell lines with noted cytogenetic abnormalities concerning for 
treatment related MDS. ___ Dacogen x4 cycles with persistent 
thrombocytopenia but recovered WBCs. Bone marrow biopsy on 
___ shows persistent trilineage
dyspoitic maturation. She underwent MUD Allogeneic transplant 
with Fludarabine/Busulfan/ATG conditioning per protocol. She was 
discharged on acyclovir, fluconazole, and Bactrim as per 
protocol. She was on cyclosporine for immunosuppression as per 
protocol. Levels were checked and the patient was discharged on 
50 BID. Weekly CMVs were negative.  

___: Cr up to 1.3 on ___, baseline 0.7-0.8. Likely from 
overdiuresis. Urine studies w/ FeUrea ~40% indicating intrinsic 
disease. Possibly renal injury from elevated cyclosporine 
levels. Cr on discharge was 1.1. 

#CVID: Per ID recommendations, given profession and history, 
after
the initial conditioning regimen would treat with isoniazid and 
B6 for a projected 9-month course to prevent TB reactivation. 
This will be guided by Dr. ___ primary oncologist. 
Patient to receive monthly IVIG outpatient. 

#Transaminitis: 
The patient developed a transaminitis into the 300-400s from 
normal after her first infusion of busulfan and ATG. This 
resolved without further intervention and remained stable during 
her subsequent infusions. RUQUS showed patent hepatic 
vasculature and an echogenic liver.

#Right leg DVT.  Had been on Xarelto 20 mg daily but this has
been on hold as platelet count < 75,000. This was resumed with 
uptrending ___ and PTT. Given ___ BMI and possibility of 
interaction with cyclosporine/fluconazole, she was switched to 
Lovenox on discharge. Xa level was ### still pending at 
discharge. Has IVC filter in place.

#Pulmonary hypertension.  Evaluated by Dr. ___ 
contraindication of proceeding with transplant. She remained 
stable from a pulmonary perspective.

#Low Back Pain: Tapered gabapentin 400 mg BID. Continued 
Venlafaxine.  

#OSA: Continued CPAP

#Asthma: Continued Albuterol PRN with Duoneb q6H PRN

TRANSITIONAL ISSUES:
- Patient requires monthly IVIG for her CVID
- Discharged on acyclovir (treatment dose) as well as 
fluconazole ppx and Bactrim ppx 
- ___ benefit from Valacyclovir instead of acyclovir: unable to 
obtain prior auth/medication delivery prior to discharge 
- Discuss treatment of latent TB with isoniazid and B6. 
- Monitor patient on Lovenox, follow-up Xa levels and adjust as 
needed.

# CODE: Full (confirmed) 
# EMERGENCY CONTACT: ___ (Daughter) ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acyclovir 400 mg PO Q8H 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN cough/wheeze 
3. Omeprazole 20 mg PO DAILY 
4. Venlafaxine 25 mg PO BID 
5. Fluconazole 200 mg PO Q24H 
6. Ondansetron 4 mg PO Q8H:PRN nausea 
7. FoLIC Acid 3 mg PO DAILY 
8. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN SOB, wheeze 
9. Albuterol Inhaler ___ PUFF IH Q4H:PRN cough 
10. Cephalexin 200 mg PO ONCE 
11. Gabapentin 600 mg PO BID 
12. Loratadine 10 mg PO DAILY cold 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation  
14. Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Medications:
1.  CycloSPORINE (Neoral) MODIFIED 50 mg PO Q12H 
RX *cyclosporine modified [Neoral] 25 mg 2 capsule(s) by mouth 
every twelve (12) hours Disp #*60 Capsule Refills:*0
RX *cyclosporine modified 50 mg 1 capsule(s) by mouth twice a 
day Disp #*60 Capsule Refills:*0
RX *cyclosporine modified 25 mg 2 capsule(s) by mouth twice a 
day Disp #*120 Capsule Refills:*0 
2.  Enoxaparin Sodium 90 mg SC Q12H 
RX *enoxaparin 100 mg/mL 100 mg SC every twelve (12) hours Disp 
#*30 Syringe Refills:*0 
3.  LORazepam 0.5-1 mg PO Q6H:PRN anxiety,nausea or vomiting if 
not relieved by ondansetron 
RX *lorazepam 0.5 mg ___ TABLETS by mouth Q6H:PRN Disp #*30 
Tablet Refills:*0 
4.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*0 
5.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim [Bactrim] 400 mg-80 mg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 
6.  Ursodiol 300 mg PO QAM 
RX *ursodiol 300 mg 1 capsule(s) by mouth QAM Disp #*30 Capsule 
Refills:*0
RX *ursodiol 300 mg 1 capsule(s) by mouth QAM Disp #*30 Capsule 
Refills:*0 
7.  Ursodiol 600 mg PO QPM 
RX *ursodiol 300 mg 2 capsule(s) by mouth QPM Disp #*60 Capsule 
Refills:*0
RX *ursodiol 300 mg 2 capsule(s) by mouth QPM Disp #*60 Capsule 
Refills:*0 
8.  Acyclovir 200 mg PO 5X/D  
9.  Fluconazole 400 mg PO Q24H 
RX *fluconazole 200 mg 2 tablet(s) by mouth Q24H Disp #*60 
Tablet Refills:*0 
10.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
11.  Gabapentin 400 mg PO BID 
RX *gabapentin 400 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0
RX *gabapentin 400 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0 
12.  Albuterol Inhaler ___ PUFF IH Q4H:PRN cough  
13.  Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN 
cough/wheeze  
14.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN SOB, wheeze  
15.  Loratadine 10 mg PO DAILY cold  
16.  Omeprazole 20 mg PO DAILY  
17.  Ondansetron 4 mg PO Q8H:PRN nausea  
18.  Polyethylene Glycol 17 g PO DAILY:PRN constipation   
19.  Senna 8.6 mg PO BID:PRN constipation   
20.  Venlafaxine 25 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Secondary MDS ___ MUD AlloSCT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization. You were admitted to ___ for a stem cell 
transplant. You underwent the bone marrow transplant and 
remained in the hospital while your counts improved. Your counts 
are now improved and it is safe for you to be discharged. 

WHEN YOU GO HOME:
- Please continue to take all of your medications as directed
- Please follow-up with the doctors listed below
- ___ monitor for any of the alarm symptoms listed below, 
call your doctor or report to the emergency department 
immediately if you experience any of these

We wish you the best!
Your ___ Care Team
 
Followup Instructions:
___